US06451794B1
(v) 6-Difluoromethoxy-2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine
A solution of 2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-6-ol (0.2 9) in anhydrous dimethyl formamide (5 ml) was treated with sodium hydride (0.046 g, 60% dispersion in mineral oil), after effervescence ceased a stream of bromodifluoromethane gas was passed through the mixture at ambient temperature for 30 minutes. The reaction mixture was then poured into water (50 ml) and extracted with ethyl acetate (50 ml), the organic extract was washed with water (3×50 ml), dried and concentrated in vacuo. The residue was purified by chromatography to give the title compound as a white solid (0.17 g).

reactant | 2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-6-ol | FC1=CC=C(C=C1)C1=NN2N=C(C=CC2=C1C1=CC=C(C=C1)S(=O)(=O)C)O | C19H14FN3O3S
reactant | sodium hydride | 0.046 g | [H-].[Na+]
reactant | bromodifluoromethane | BrC(F)F | CHBrF2
reactant | water | 50 ml | O | H2O
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-Difluoromethoxy-2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazine | 0.17 g | FC(OC=1C=CC=2N(N1)N=C(C2C2=CC=C(C=C2)S(=O)(=O)C)C2=CC=C(C=C2)F)F | C20H14F3N3O3S
